US08981084B2
tert-Butyl 3-carbamoyl-4-methylpiperazine-1-carboxylate (400 mg, 1.64 mmol) was dissolved in toluene (20 mL) and Lawesson reagent (332 mg, 0.82 mmol) was added. The reaction mixture was heated to reflux for 5 h. Solvent was removed under reduced pressure and the crude product was purified by column chromatography (silica gel 60-120 mesh, eluent 10-15% MeOH in CHCl3) to afford tert-butyl 3-carbamothioyl-4-methylpiperazine-1-carboxylate (0.17 g, yield 40%) as pale yellow liquid. 1H NMR (300 MHz, CDCl3) δ 8.16 (br s, 1H), 7.47 (br s, 1H), 4.28-4.21 (m, 1H), 4.06-3.99 (m, 1H), 3.62 (m, 1H), 3.18-3.13 (dd, J=10.2 Hz, 4.1 Hz, 1H), 2.89-2.82 (m, 2H), 2.52-2.47 (dd, J=11.5 Hz, 3.4 Hz, 1H), 2.26 (s, 3H), 1.47 (s, 9H). MS (ESI) m/z: Calculated for C11H21N3O2S: 259.14. found: 260.2 (M+H)+

reactant | tert-Butyl 3-carbamoyl-4-methylpiperazine-1-carboxylate | 1.64 mmol, 400 mg | C(N)(=O)C1CN(CCN1C)C(=O)OC(C)(C)C | C11H21N3O3
reactant | Lawesson reagent | 0.82 mmol, 332 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-carbamothioyl-4-methylpiperazine-1-carboxylate | 0.17 g, yield 40% | C(N)(=S)C1CN(CCN1C)C(=O)OC(C)(C)C | C11H21N3O2S
